US07052742B1
4.9 g of 4-(5-undecyl-pyrimidin-2-yl)phenol, 2.0 g of 4-fluoro-5-propyl-thiophene-2-carboxylic acid (prepared in accordance with Scheme 1 by nitrating methyl 5-propyl-thiophene-2-carboxylate in HNO3/H2SO4 to form methyl 4-nitro-5-propyl-thiophene-2-carboxylate, followed by reduction of the latter by means of Sn/HCl to give the corresponding amino compound, conversion of the latter into the diazonium tetrafluoroborate, thermolysis and, finally, hydrolysis) and 2.1 g of dicyclohexylcarbodiimide are stirred for 24 h in 50 ml of dichloromethane at room temperature. Filtration, removal of the dichloromethane by distillation, purification by chromatography (silica gel; dichloromethane/heptane) and recrystallization from acetonitrile affords the target compound as colorless crystals.

reactant | 4-(5-undecyl-pyrimidin-2-yl)phenol | 4.9 g | C(CCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C21H30N2O
reactant | 4-fluoro-5-propyl-thiophene-2-carboxylic acid | 2.0 g | FC=1C=C(SC1CCC)C(=O)O | C8H9FO2S
reactant | methyl 5-propyl-thiophene-2-carboxylate | C(CC)C1=CC=C(S1)C(=O)OC | C9H12O2S
reactant | HNO3 H2SO4 | [N+](=O)(O)[O-].OS(=O)(=O)O
product | methyl 4-nitro-5-propyl-thiophene-2-carboxylate | [N+](=O)([O-])C=1C=C(SC1CCC)C(=O)OC | C9H11NO4S
